US07851626B2
2-(4-{(4S,5R)-4,5-Bis-(4-chloro-phenyl)-1-[4-(1,1-dioxo-tetrahydro-2H-thiopyran-4-yl)-piperazine-1-carbonyl]-4,5-dimethyl-4,5-dihydro-1H-imidazol-2-yl}-3-ethoxy-phenyl)-2-methyl-propionitrile
In a manner analogous to the method described in example 5, rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-[4-(cyano-dimethyl-methyl)-2-ethoxy-phenyl]-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride was reacted with 1-(1,1-dioxo-tetrahydro-2H-thiopyran-4-yl)-piperazine dihydrochloride to give the title compound as a racemic mixture. The enantiomers were then separated by supercritical fluid chromatography (Berger Instrument Multi-Gram II, Daicel ChiralPak OD-H 3×25 cm, 35° C. at 100 bar, eluting with 35% methanol in carbon dioxide). LR-MS: 749.63 [(M+H)+]

reactant | rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-[4-(cyano-dimethyl-methyl)-2-ethoxy-phenyl]-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride | ClC1=CC=C(C=C1)C1(N=C(N(C1(C)C1=CC=C(C=C1)Cl)C(=O)Cl)C1=C(C=C(C=C1)C(C)(C)C#N)OCC)C | C30H28Cl3N3O2
reactant | 1-(1,1-dioxo-tetrahydro-2H-thiopyran-4-yl)-piperazine dihydrochloride | Cl.Cl.O=S1(CCC(CC1)N1CCNCC1)=O
product | 2-(4-{(4S,5R)-4,5-Bis-(4-chloro-phenyl)-1-[4-(1,1-dioxo-tetrahydro-2H-thiopyran-4-yl)-piperazine-1-carbonyl]-4,5-dimethyl-4,5-dihydro-1H-imidazol-2-yl}-3-ethoxy-phenyl)-2-methyl-propionitrile | ClC1=CC=C(C=C1)[C@@]1(N=C(N([C@]1(C)C1=CC=C(C=C1)Cl)C(=O)N1CCN(CC1)C1CCS(CC1)(=O)=O)C1=C(C=C(C=C1)C(C#N)(C)C)OCC)C | C39H45Cl2N5O4S
